US05580981
1-Hydroxy-5-azabenzotriazole.
By reacting either 3-methoxy-4-nitro pyridine or 3-halo-4-nitro pyridine (wherein halo is chloro, bromo or fluoro) with hydrazine in accordance with the procedure of Example 1, the title compound is prepared.

reactant | 3-methoxy-4-nitro pyridine | COC=1C=NC=CC1[N+](=O)[O-] | C6H6N2O3
reactant | hydrazine | NN | H4N2
product | 1-Hydroxy-5-azabenzotriazole | ON1N=NC2=C1C=CN=C2 | C5H4N4O
